US04165378
Acetic anhydride (0.39 g.) was added to a stirred suspension of 2 -guanidino-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole (1.10 g.) in pyridine (6 ml.) at room temperature. After stirring for two hours, the mixture was diluted with water (50 ml.), extracted with methylene chloride (3×30 ml.) and the combined extracts washed with water (100 ml.) and dried over magnesium sulphate. The solution was filtered and evaporated to dryness to leave a gum which was purified by column chromatography (silica column, eluted with ethyl acetate/ethanol/ammonia (s.g. 0.880) 6:1:1 v/v/v) to give 2-(2-acetylguanidino)-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole as an amorphous solid. The n.m.r. spectrum in d6 dimethyl sulphoxide using tetramethylsilane as internal standard had the following resonances (δ): 2.1 (3H, singlet); 2.7 (5H, multiplet); 3.3 (multiplet, obscured by H2O); 3.7 (2H, singlet); 6.8 (1H, singlet); 7.0 (2H, broad multiplet; 9.0 (2H, very broad) and 10.7 (1H, broad).

reactant | Acetic anhydride | 0.39 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2 -guanidino-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole | 1.10 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(=NC#N)NC | C10H16N8S2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 2-(2-acetylguanidino)-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole | C(C)(=O)N=C(NC=1SC=C(N1)CSCCNC(=NC#N)NC)N | C12H18N8OS2
